US05536718
N-[4-(5H-Pyrrolo[2, 1-c][1, 4]benzodiazepin-10(11H) -ylcarbonyl)phenyl]-2-(1-piperidinyl)-pyridine-3-carboxamide
Using the conditions of Example 334 and 1 g of N-[4-(5H-pyrrolo[2, 1-c][1, 4]benzodiazepin-10 (11H) -ylcarbonyl)phenyl]-2-chloropyridine-3-carboxamide and 5 ml of piperidine gives 700 mg of the desired product :M+ =491.

reactant | N-[4-(5H-pyrrolo[2, 1-c][1, 4]benzodiazepin-10 (11H) -ylcarbonyl)phenyl]-2-chloropyridine-3-carboxamide | 1 g | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=CC=C(C=C1)NC(=O)C=1C(=NC=CC1)Cl | C25H19ClN4O2
reactant | piperidine | 5 ml | N1CCCCC1 | C5H11N
product | N-[4-(5H-Pyrrolo[2, 1-c][1, 4]benzodiazepin-10(11H) -ylcarbonyl)phenyl]-2-(1-piperidinyl)-pyridine-3-carboxamide | 700 mg | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=CC=C(C=C1)NC(=O)C=1C(=NC=CC1)N1CCCCC1 | C30H29N5O2
